US06518257B1
(ii) Production of 1-(4′-fluoro[1,1′-biphenyl]-4-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol
To a suspension of 1-(4-bromophenyl)-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (3.60 g), 4-fluorophenylboronic acid (1.50 g) and 2M aqueous sodium carbonate solution (26.8 ml) in dimethoxyethane (50 ml) was added tetrakis(triphenylphosphine)palladium(0) (387 mg). Under an argon atmosphere, the mixture was heated under reflux for 12 h. The reaction mixture was extracted with ethyl acetate-THF (8:3), washed with water and saturated brine, and dried. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chomatography (eluent, hexane:ethyl acetate=6:1→4:1) to give the title compound (3.16 g) as colorless needle crystals.

reactant | 1-(4-bromophenyl)-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 3.60 g | BrC1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29BrN2O
reactant | 4-fluorophenylboronic acid | 1.50 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 26.8 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 387 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4′-fluoro[1,1′-biphenyl]-4-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 3.16 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33FN2O
